Gilbert Cell Mixer Simulation

.include 2n7000.onsemi.lib

* Power supply
Vdd 1 0 DC 9

* Radio frequency input
Vrf 4 5 SIN(0 1 1.6Meg)

* Local oscillator input
Vlo 8 9 SIN(0 1 1.0Meg)

* Bias for LO input
Vbias_lo 5 0 DC 6

* Bias for RF input
Vbias_rf 9 0 DC 4

* Load resistors
R1 1 2 10k
R2 1 3 10k

* Top-left differential pair
X1 2 4 6 2N7000
X2 3 5 6 2N7000

* Top-right differential pair
X3 2 5 7 2N7000
X4 3 4 7 2N7000

* Bottom differential pair
X5 6 8 10 2N7000
X6 7 9 10 2N7000

* Bias transistor and bias voltage
X7 10 11 0 2N7000
Vbias 11 0 DC 3.3

.control
tran 0.01u 10u 0u
*ac dec 100 100e3 1000e3 
run
plot v(2)-v(3)
plot v(11)
plot v(4)
plot v(8)
.endc

.end
