Gilbert Cell Mixer Simulation

.include 2n7000.onsemi.lib

* Power supply
Vdd 1 0 DC 9

* Radio frequency input
Vrf 4 5 SIN(1 0 1.8Meg)

* Local oscillator input
Vlo 8 9 SIN(1 0 1.6Meg)

* Bias for LO input relative to RF bias
Vbias_lo 5 9 DC 5

* Bias for RF input
Vbias_rf 9 0 DC 5

* Load resistors
R1 1 2 100
R2 1 3 100

* Top-left differential pair
X1 2 4 6 2N7000
X2 3 5 6 2N7000

* Top-right differential pair
X3 2 5 7 2N7000
X4 3 4 7 2N7000

* Bottom differential pair
X5 6 8 10 2N7000
X6 7 9 10 2N7000

* Bias transistor and bias voltage
X7 10 11 12 2N7000
Vbias 11 0 DC 5

* For sensing the current
Vsens 12 0 DC 0

.control
*op
dc Vbias_lo 0 10 0.1
tran 0.1u 10u 0u

*ac dec 100 100e3 1000e3 
run
plot v(10)
plot i(Vsens)
.endc

.end
